US04125732
Methyl(4-chloro-3-methylphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate
As described in Example 30, a mixture of 2.86 g of 4-chloro-3-methylphenol, 0.80 g of 60% sodium hydride-oil dispersion, 3.32 g of potassium iodide, one ml of hexamethylphosphoramide and 8.52 g of methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate in 70 ml of tetrahydrofuran is refluxed for 18 hours and worked-up to give 10.1 g of gum. The gum is crystallized from petroleum ether containing a small amount of ether to give 7.7 g of white crystals. Purification by chromatography over silica gel with dichloromethane and recrystallization from petroleum ether-ether and benzene-hexane gives crystals, mp 74°-76° C.

reactant | 4-chloro-3-methylphenol | 2.86 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | sodium hydride | 0.80 g | [H-].[Na+]
reactant | potassium iodide | 3.32 g | [I-].[K+]
reactant | methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 8.52 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | one ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl(4-chloro-3-methylphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 10.1 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC(=C(C=C1)Cl)C)=O | C25H24Cl2O5
